US04853410
6-Nitro-2,2-dimethylchroman-4-one
2,2-Dimethylchroman-4-one (4 g, 23.2 mmol) was added portionwise over 10 minutes to 7 ml of concentrated sulfuric acid at 0°-5° C., then cooled in an acetone-ice bath as concentrated nitric acid (s.g. 1.5, 90%, 1.4 ml) in 3 ml concentrated sulfuric acid was added dropwise over 20 minutes. The resulting mixture was poured into 100 ml ice and water and extracted 2×50 ml ethyl acetate. The organic layers were combined, washed 4×50 ml water and then brine, dried over magnesium sulfate, stripped to solids (5.3 g) and chromatographed on 500 g silica gel, gradiently eluting with 20:1, 15:1, 10:1 and finally 5:1 hexane:diethyl ether to yield title product as a white solid, 2.1 g (39%); tlc Rf 0.3 (1:1 diethyl ether:hexane); m/e 221(P+), 206, 166, 120.

reactant | 2,2-Dimethylchroman-4-one | 23.2 mmol, 4 g | CC1(OC2=CC=CC=C2C(C1)=O)C | C11H12O2
reactant | nitric acid | 1.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Nitro-2,2-dimethylchroman-4-one | [N+](=O)([O-])C=1C=C2C(CC(OC2=CC1)(C)C)=O | C11H11NO4
